US06365584B1
a) N-{4-fluoro-3-nitro-phenyl}-benzenesulphonamide
4-fluoro-3-nitro-aniline (7.8 g, 50 mmol) is taken up in 50 mL pyridine and cooled to 10° C. The benzenesulphonic acid chloride (7.0 mL, about 55 mmol) is added dropwise with stirring within about 20 min at 10-20° C. The mixture is stirred for about 0.5 h at ambient temperature and poured onto ice water. After acidifying with conc. hydrochloric acid the mixture is extracted with 150 mL ethyl acetate, washed with water, dried and concentrated by evaporation. The residue is dissolved in diethylether, diluted with petroleum ether and cooled. The crystals formed are filtered off, washed with diethylether/petroleum ether and dried.

reactant | 4-fluoro-3-nitro-aniline | 50 mmol, 7.8 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | benzenesulphonic acid chloride | about 55 mmol, 7.0 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | N-{4-fluoro-3-nitro-phenyl}-benzenesulphonamide | FC1=C(C=C(C=C1)NS(=O)(=O)C1=CC=CC=C1)[N+](=O)[O-] | C12H9FN2O4S
